US08877774B2
Step 2. (3-((3-((1,3-Dioxolan-2-yl)methyl)benzyl)oxy)phenyl)(3-fluorophenyl)methanol
The title compound was prepared as described in Example 10 Step 2 with 3-fluorophenylmagnesium bromide and 3-((3-((1,3-dioxolan-2-yl)methyl)benzyl)oxy)-benzaldehyde replacing 2-thienylmagnesium bromide and 3-(8-(1,3-dioxolan-2-yl)octyloxy)benzaldehyde, respectively.

reactant | 3-fluorophenylmagnesium bromide | FC=1C=C(C=CC1)[Mg]Br
reactant | 3-((3-((1,3-dioxolan-2-yl)methyl)benzyl)oxy)-benzaldehyde | O1C(OCC1)CC=1C=C(COC=2C=C(C=O)C=CC2)C=CC1 | C18H18O4
reactant | 3-(8-(1,3-dioxolan-2-yl)octyloxy)benzaldehyde | O1C(OCC1)CCCCCCCCOC=1C=C(C=O)C=CC1 | C18H26O4
product | (3-((3-((1,3-Dioxolan-2-yl)methyl)benzyl)oxy)phenyl)(3-fluorophenyl)methanol | O1C(OCC1)CC=1C=C(COC=2C=C(C=CC2)C(O)C2=CC(=CC=C2)F)C=CC1 | C24H23FO4
